US08222416B2
To a solution of 1-(1-benzenesulfonyl-5-methoxy-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclohexyl-ethanone (240 mg, 0.58 mmol) in dry tetrahydrofuran (20 mL) at −78° C. was added lithium bis(trimethylsilyl)amide (1 M in tetrahydrofuran, 0.9 mL, 0.9 mmol) dropwise. After stirring at −78° C. for 1 h, a solution of p-toluenesulfonic anhydride (322 mg, 0.98 mmol) in tetrahydrofuran (10 mL) was added dropwise. The resulting mixture was kept at −78° C. for another 1.5 h. The reaction was quenched with water, extracted with ethyl acetate (300 mL), washed with brine, dried over anhydrous sodium sulfate and then concentrated in vacuo to afford toluene-4-sulfonic acid 1-(1-benzenesulfonyl-5-methoxy-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclohexyl-vinyl ester as a light yellow solid (330 mg, quant.) which was used in the next step without further purification: LC/MS m/e calcd for C29H30N2O6S2 [M+H]+ 567.7, observed 567.4.

reactant | 1-(1-benzenesulfonyl-5-methoxy-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclohexyl-ethanone | 0.58 mmol, 240 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)OC)C(CC2CCCCC2)=O | C22H24N2O4S
reactant | lithium bis(trimethylsilyl)amide | 0.9 mmol, 1 M, 0.9 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | p-toluenesulfonic anhydride | 0.98 mmol, 322 mg | C1(=CC=C(C=C1)S(=O)(=O)OS(=O)(=O)C1=CC=C(C=C1)C)C | C14H14O5S2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | toluene-4-sulfonic acid 1-(1-benzenesulfonyl-5-methoxy-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclohexyl-vinyl ester | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=C(C2)OC)C(=CC2CCCCC2)OS(=O)(=O)C2=CC=C(C=C2)C | C29H30N2O6S2
